US06987114B1
1-(2-Cyanobenzyl)-5-ethyl-6-(3,5-dimethylphenoxy)-2,4-pyrimidinedione
5-Ethyl-6-(3,5-dimethylphenoxy)-2,4-pyrimidinedione and 2-cyanobenzyl bromide were reacted by the same way with the example 1 to obtain the titled compound (201 mg, yield: 53.5%).

reactant | 5-Ethyl-6-(3,5-dimethylphenoxy)-2,4-pyrimidinedione | C(C)C=1C(NC(NC1OC1=CC(=CC(=C1)C)C)=O)=O | C14H16N2O3
reactant | 2-cyanobenzyl bromide | C(#N)C1=C(CBr)C=CC=C1 | C8H6BrN
product | 1-(2-Cyanobenzyl)-5-ethyl-6-(3,5-dimethylphenoxy)-2,4-pyrimidinedione | 201 mg, yield: 53.5% | C(#N)C1=C(CN2C(NC(C(=C2OC2=CC(=CC(=C2)C)C)CC)=O)=O)C=CC=C1 | C22H21N3O3
